US08895588B2
{5-[(3-bromophenyl)sulfonyl]-1-(2-fluoropyridin-3-yl)-1H-pyrazol-3-yl}methanol
A solution of ethyl 5-[(3-bromophenyl)sulfonyl]-1-(2-fluoropyridin-3-yl)-1H-pyrazole-3-carboxylate (467 mg) in tetrahydrofuran (5 mL) was cooled to −78° C., and a 1.5 mol/L solution (2.7 mL) of diisobutylaluminum hydride in toluene was added dropwise. The reaction mixture was stirred at 0° C. for 2 hr, treated with 1 mol/L hydrochloric acid, and extracted with ethyl acetate. The extract was washed with water, saturated aqueous sodium hydrogen carbonate solution and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure to give the title compound as a yellow oil (yield 371 mg, yield 88%).

reactant | ethyl 5-[(3-bromophenyl)sulfonyl]-1-(2-fluoropyridin-3-yl)-1H-pyrazole-3-carboxylate | 467 mg | BrC=1C=C(C=CC1)S(=O)(=O)C1=CC(=NN1C=1C(=NC=CC1)F)C(=O)OCC | C17H13BrFN3O4S
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | {5-[(3-bromophenyl)sulfonyl]-1-(2-fluoropyridin-3-yl)-1H-pyrazol-3-yl}methanol | yield 371 mg, yield 88% | BrC=1C=C(C=CC1)S(=O)(=O)C1=CC(=NN1C=1C(=NC=CC1)F)CO | C15H11BrFN3O3S
